US08877742B2
N-(1-(azetidin-3-yl)-3-(5-fluoro-1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl)benzenesulfonamide
To a solution of tert-butyl 3-(3-(5-fluoro-1-methylindolin-6-yl)-4-(phenylsulfonamido)-1H-pyrrolo[2,3-b]pyridin-1-yl)azetidine-1-carboxylate (D33) (489 mg, 0.847 mmol) in DCM (8 mL) was added 4M HCl in dioxane (4.23 mL, 16.93 mmol). The final mixture was stirred at RT for 6 hours. The mixture was concentrated in vacuo. The residue was dissolved in MeOH and passed through a SCX cartridge eluting with MeOH followed by 2M ammonia in MeOH to give the title compound (394 mg). LCMS (A): m/z (M+H)+ 478, C25H24FN5O2S requires 477 (acidic).

reactant | tert-butyl 3-(3-(5-fluoro-1-methylindolin-6-yl)-4-(phenylsulfonamido)-1H-pyrrolo[2,3-b]pyridin-1-yl)azetidine-1-carboxylate | 0.847 mmol, 489 mg | FC=1C=C2CCN(C2=CC1C1=CN(C2=NC=CC(=C21)NS(=O)(=O)C2=CC=CC=C2)C2CN(C2)C(=O)OC(C)(C)C)C | C30H32FN5O4S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 16.93 mmol, 4.23 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(azetidin-3-yl)-3-(5-fluoro-1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-4-yl)benzenesulfonamide | 394 mg | N1CC(C1)N1C=C(C=2C1=NC=CC2NS(=O)(=O)C2=CC=CC=C2)C2=C(C=C1CCN(C1=C2)C)F | C25H24FN5O2S
